US09382238B2
To a mixture of 4-bromo-1H-pyrazole (500 mg, 3.40 mmol) in DCM (10 mL) was added Boc2O (0.790 mL, 3.40 mmol) and Et3N (0.948 mL, 6.80 mmol). The mixture was stirred at 25° C. for 1 h. The mixture was concentrated to afford tert-butyl 4-bromo-1H-pyrazole-1-carboxylate (800 mg, 2.91 mmol, 86% yield). TLC (PE/EA=2:1, Rf=0.6): 1H NMR (400 MHz, CD3OD) δ 8.31 (s, 1H), 7.77 (s, 1H), 1.63 (s, 9H). ES-LCMS m/z 148.0 (M-Boc+H).

reactant | 4-bromo-1H-pyrazole | 3.40 mmol, 500 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | Boc2O | 3.40 mmol, 0.790 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 6.80 mmol, 0.948 mL | CCN(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-bromo-1H-pyrazole-1-carboxylate | 2.91 mmol, 800 mg, 86% yield | BrC=1C=NN(C1)C(=O)OC(C)(C)C | C8H11BrN2O2
